US08541380B2
Step 1: 6-(2-Chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)benzyl)-N-(2-oxopropyl)pyridazine-3-carboxamide
To a mixture of 6-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)benzyl)pyridazine-3-carboxylic acid (1.2 mmol), 1-aminopropan-2-one trifluoroacetic acid salt (346 mg, 1.9 mmol), EDCI (472 mg, 2.5 mmol), and 1-hydroxybenzotriazole hydrate (478 mg, 3.1 mmol) in N,N-dimethylformamide (10 mL) was added 4-methylmorpholine (0.68 mL, 6.2 mmol). The resulting mixture was stirred at ambient temperature overnight. After dilution with ethyl acetate, the organic layer was subsequently washed with water, hydrochloric acid (1.0 M), saturated sodium bicarbonate and brine prior to drying over magnesium sulfate. Filtration through a plug of silica gel and removal of the volatiles under reduced pressure yielded titled compound as a brown amorphous solid, which was used without further purification.

reactant | 6-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)benzyl)pyridazine-3-carboxylic acid | 1.2 mmol | ClC1=C(CC2=CC=C(N=N2)C(=O)O)C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C46H43ClN2O7
reactant | 1-aminopropan-2-one trifluoroacetic acid salt | 1.9 mmol, 346 mg | FC(C(=O)O)(F)F.NCC(C)=O
reactant | EDCI | 2.5 mmol, 472 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole hydrate | 3.1 mmol, 478 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 4-methylmorpholine | 6.2 mmol, 0.68 mL | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-(2-Chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)benzyl)-N-(2-oxopropyl)pyridazine-3-carboxamide | ClC1=C(CC2=CC=C(N=N2)C(=O)NCC(C)=O)C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C49H48ClN3O7
